### ISSUE TITLE
Multiple wildcard arms in `cases` not supported

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#1718]
this works:
```lean
example (h : P ∨ Q) : True := by
  cases h 
  case _ hpq => trivial
  case _ hpr => trivial
```
but this doesn't:
```lean
example (h : P ∨ Q) : True := by
  cases h with -- invalid occurrence of wildcard alternative, it must be the last alternative
  | _ hpq => trivial
  | _ hpr => trivial
```
I think that cases / induction should use a similar strategy to `case` here: non-terminal wildcard alternatives should apply to the first remaining constructor. Only the last wildcard alternative should run on all remaining constructors.

This makes it usable for pattern matching on an inductive without having to say what the name of the constructors are.
